US09144757B2
To 4-(2H-tetrazol-5-yl)-benzene-1,2-diamine dihydrochloride (6.40 g, 25 mmol) in acetonitrile (100 ml) was added thiocarbonyl di-imidazole (4.86 g, 28 mmol). A further 100 ml of acetonitrile was added. The reaction was then stirred for 5 hours and the reaction analyzed by HPLC. The solvent was removed under reduced pressure and water added (100 ml). The pH of the reaction mixture was adjusted to pH 2.0 and the solid filtered and washed with water (50 ml). The material was dried to give 5-(2H-tetrazol-5-yl)-1,3-dihydrobenzimidazole-2-thione (3.35 g, 61% yield). The material was suspended in water (300 ml) and the pH adjusted to 11.0 with 40% (v/v) NaOH. Methanol (15 ml) was then added followed by Activated carbon (0.38 g) and the mixture stirred for 1 hour. The mixture was filtered and the solvent removed, under reduced pressure, to half its volume. The pH was adjusted to 2.0 with 50% (v/v) hydrochloric acid to yield an off white solid. The solid was filtered off and washed with water. The purity was >98% by hplc Rt=7.8 mins. The material was dried to yield 5-(2H-tetrazol-5-yl)-1,3-dihydrobenzimidazole-2-thione (2.37 g). 1H NMR (d6-DMSO, 400 MHz) 12.88 ppm (1H, s), 12.84 ppm (1H, s), 7.82 ppm (1H, dd, 8.4 Hz, 1.6 Hz), 7.78 ppm (1H, m), 7.30 ppm (1H, d, 8 Hz). MS (high resolution EI). Found 218.036514 m/z C8H6N6S to +4 ppm mass accuracy.

reactant | 4-(2H-tetrazol-5-yl)-benzene-1,2-diamine dihydrochloride | 25 mmol, 6.40 g | Cl.Cl.N=1NN=NC1C=1C=C(C(=CC1)N)N
reactant | thiocarbonyl di-imidazole | 28 mmol, 4.86 g | C(=S)(C=1NC=CN1)C=1NC=CN1 | C7H6N4S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 5-(2H-tetrazol-5-yl)-1,3-dihydrobenzimidazole-2-thione | 3.35 g, 61% yield | N=1NN=NC1C1=CC2=C(NC(N2)=S)C=C1 | C8H6N6S
